US05430042
Preparation of 5-Acetyl-6-methyl-2-[[(3-methoxy-4-(5-methyl-1,3-dioxan-5-yl-methoxy)-2-pyridinyl)methyl]-sulfinyl]-1H-benzimidazole
A stirred mixture of 5-acetyl-6-methyl-2-[[(3-methoxy-4-(5-methyl-1,3-dioxan-5-yl-methoxy)-2-pyridinyl)methyl]thio]-1H-benzimidazole (87 mg, 0.19 mmol) in 20 ml CH2Cl2 and NaHCO3 (32 mg, 0.38 mmol) in 5 ml H2O was cooled to 0° C. and treated with 3-chloro-perbenzoic acid (47 mg 70%, 0.19 mmol). After reacting for 10 min the layers were separated (the aqueous layer was washed once more with 5 ml CH2Cl2) and the organic layer extracted with 10 ml H2O containing NaOH (15 mg, 38 mmol). The alkaline aqueous layer was collected and treated with several portions of methyl formate (each 23 μl, 38 mmol) until the solution turned opaque. The aqueous layer was extracted with 25+10 ml CH2Cl2. The two latter organic layers were combined, dried over MgSO4 and evaporated. The residue was chromatographed (SiO2, CH2Cl2 /MeOH saturated with NH3(g), 93/7) yielding 40 mg (44%) pure solfoxide.

reactant | 5-acetyl-6-methyl-2-[[(3-methoxy-4-(5-methyl-1,3-dioxan-5-yl-methoxy)-2-pyridinyl)methyl]thio]-1H-benzimidazole | 0.19 mmol, 87 mg | C(C)(=O)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OCC2(COCOC2)C)C=C1C | C23H27N3O5S
reactant | NaHCO3 | 0.38 mmol, 32 mg | C(=O)(O)[O-].[Na+]
reactant | 3-chloro-perbenzoic acid | 0.19 mmol, 47 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaOH | 38 mmol, 15 mg | [OH-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 5 ml | O | H2O
product | 5-Acetyl-6-methyl-2-[[(3-methoxy-4-(5-methyl-1,3-dioxan-5-yl-methoxy)-2-pyridinyl)methyl]-sulfinyl]-1H-benzimidazole | C(C)(=O)C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OCC2(COCOC2)C)C=C1C | C23H27N3O6S
